US09056877B2
To a mixture of ethyl 4-chloro-5-formyl-2-methylthiophene-3-carboxylate (F-4) (9.72 g, 41.77 mmol, 1.0 eq) in DMF (150 mL), oxone (77.1 g, 125.3 mmol, 3.0 eq) is added in portions and the resulting mixture is stirred at RT overnight. The mixture is poured into H2O (800 mL) and stirred for 30 min. The precipitate is collected by filtration, rinsed with H2O (100 mL) and then slurried in H7O (80 mL) for 30 min. The solid is collected by filtration, rinsed with H2O (3×60 mL) and petroether (3×60 mL), and dried in vacuo to afford the product, 3-chloro-4-(ethoxycarbonyl)-5-methylthiophene-2-carboxylic acid (F-5).

reactant | ethyl 4-chloro-5-formyl-2-methylthiophene-3-carboxylate | 41.77 mmol, 9.72 g, 1.0 eq | ClC=1C(=C(SC1C=O)C)C(=O)OCC | C9H9ClO3S
reactant | oxone | 125.3 mmol, 77.1 g, 3.0 eq | OOS(=O)[O-].[K+]
reactant | H2O | 800 mL | O | H2O
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | 3-chloro-4-(ethoxycarbonyl)-5-methylthiophene-2-carboxylic acid | ClC1=C(SC(=C1C(=O)OCC)C)C(=O)O | C9H9ClO4S
